### PR TITLE
Add Data.Fin.combine as inverse of quotRem, and properties thereof

### PR DESCRIPTION
**Pull request by Taneb**
See also #1422 

There has been discussion about whether the type of `combine` should be altered to match the multiplication and the return type. Currently it matches the type of `quotRem`. I'm not certain how to resolve this.

### CODE REVIEW

File: src/Data/Fin/Properties.agda [hunk 1]
```diff
@@ -530,6 +530,35 @@ splitAt-≥ (suc m) (suc i) (s≤s i≥m) = cong (Sum.map suc id) (splitAt-≥ m
...
+... | inj₂ j | P.[ eq ] = begin
+  raise {n ℕ.* k} k (uncurry combine (quotRem {n} k j)) ≡⟨ cong (raise k) (combine-quotRem {n} k j) ⟩
+  join k (n ℕ.* k) (inj₂ j)                             ≡˘⟨ cong (join k (n ℕ.* k)) eq ⟩
+  join k (n ℕ.* k) (splitAt k i)                        ≡⟨ join-splitAt k (n ℕ.* k) i ⟩
+  i                                                     ∎
+  where open ≡-Reasoning
+
+------------------------------------------------------------------------
+-- Bundles
+*↔× : ∀ {m n} → Fin (m ℕ.* n) ↔ (Fin n × Fin m)
```
Comment (JacquesCarette) [inline src/Data/Fin/Properties.agda:559]: I get why this is flipped. But this doesn't match what's advertised at the top... and is also quite counter-intuitive. It would make a lot more sense to keep this name for the version obtained via post-composing this with `swap`.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

File: src/Data/Fin/Base.agda [hunk 2]
```diff
@@ -143,6 +143,11 @@ quotRem {suc n} k i with splitAt k i
 ... | inj₁ j = j , zero
 ... | inj₂ j = Product.map₂ suc (quotRem {n} k j)
 
+-- inverse of above function
+combine : ∀ {n k} → Fin k → Fin n → Fin (n ℕ.* k)
+combine x zero = inject+ _ x
+combine x (suc y) = raise _ (combine x y)
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Base.agda:149]: Can we fill in the `_` here? Even if it means we have to add the implicit arguments, I think it'll make it more readable?

File: src/Data/Fin/Properties.agda [hunk 3]
```diff
@@ -18,7 +18,7 @@ open import Data.Fin.Patterns
 open import Data.Nat.Base as ℕ using (ℕ; zero; suc; s≤s; z≤n; _∸_)
 import Data.Nat.Properties as ℕₚ
 open import Data.Unit using (tt)
-open import Data.Product using (∃; ∃₂; ∄; _×_; _,_; map; proj₁; uncurry; <_,_>)
+open import Data.Product using (∃; ∃₂; ∄; _×_; _,_; map; proj₁; proj₂; uncurry; <_,_>)
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:21]: Don't need to add the `proj₂` import?

File: src/Data/Fin/Properties.agda (hunk 1 above)
Comment (MatthewDaggitt) [reply src/Data/Fin/Properties.agda:559]: Yes, I would define `remQuot` and prove everything in terms of that. Unsure whether it should be defined in terms of `quotRem` or whether we should redefine it and deprecate `remQuot` entirely? Thoughts?

(`remQuot` is a relatively new addition so deprecating it shouldn't cause too much pain)

File: src/Data/Fin/Properties.agda (hunk 3 above)
Comment (Taneb) [reply src/Data/Fin/Properties.agda:21]: Ah, I did in a slightly earlier version where I'd needlessly inlined uncurry. I'll fix that

File: src/Data/Fin/Properties.agda (hunk 1 above)
Comment (Taneb) [reply src/Data/Fin/Properties.agda]: I've added `remQuot` in terms of `quotRem`. I don't think we should remove `quotRem`, I think it's a natural thing to look for.

**Comment by JacquesCarette** [comment]
Looks great to me now!

**Comment by MatthewDaggitt** [comment]
Thanks for the PR @Taneb!
